US07465815B2
2-(2-Hydroxy-1-(4-isopropylphenyl)-1-methylethyl)-3,5,6-trimethylphenol
Using 3-(4-isopropylphenyl)-3,4,6,7-tetramethyl-1-benzofuran-2 (3H)-one synthesized in Reference Example 6, the title compound was synthesized in the same manner as in Reference Example 8. Yield 83%. Melting point: 116-117° C. (ethyl acetate-hexane).

reactant | 3-(4-isopropylphenyl)-3,4,6,7-tetramethyl-1-benzofuran-2 (3H)-one | C(C)(C)C1=CC=C(C=C1)C1(C(OC2=C1C(=CC(=C2C)C)C)=O)C | C21H24O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-(2-Hydroxy-1-(4-isopropylphenyl)-1-methylethyl)-3,5,6-trimethylphenol | Yield 83% | OCC(C)(C1=CC=C(C=C1)C(C)C)C1=C(C(=C(C=C1C)C)C)O | C21H28O2
